US07538123B2
Synthesis of 1-{1-[2-(2-methoxynaphthalen-1-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxamide
70 mg of 1-(piperidin-4-yl)-1H-indole-6-carboxamide and 115 mg of (2-methoxynaphthalen-1-yl)acetaldehyde were dissolved in 2 ml of tetrahydrofuran. Thereafter, 0.03 ml of acetic acid and 91 mg of sodium triacetoxyborohydride were added to the reaction solution, and the obtained mixture was then stirred at room temperature overnight. Thereafter, a saturated sodium bicarbonate aqueous solution was added to the reaction solution, and then extracted with chloroform. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-methanol), so as to obtain 72 mg of the subject compound.

reactant | 1-(piperidin-4-yl)-1H-indole-6-carboxamide | 70 mg | N1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N | C14H17N3O
reactant | (2-methoxynaphthalen-1-yl)acetaldehyde | 115 mg | COC1=C(C2=CC=CC=C2C=C1)CC=O | C13H12O2
reactant | sodium triacetoxyborohydride | 91 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 0.03 ml | C(C)(=O)O | C2H4O2
product | 1-{1-[2-(2-methoxynaphthalen-1-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxamide | 72 mg | COC1=C(C2=CC=CC=C2C=C1)CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N | C27H29N3O2
